US06294558B1
1-[3-Ethyl-4-(1,3-thiazol-4-yl)phenyl]-1-ethanone (step 6)
To a stirred solution of 4-(4-bromo-2-ethylphenyl)-1,3-thiazole (2.35 g, 8.76 mmol) in dioxane (45 ml) was added tributyl(1-ethoxyvinyl)tin (3.48 g, 9.64 mmol), tetrakis(triphenylphosphine)palladium (1010 mg, 0.876 mmol), lithium chloride (928 mg, 21.9 mmol), and the mixture was heated at reflux temperature for 16 hours. The reaction mixture was cooled down to room temperature, and diluted with ethyl acetate. The whole was washed with saturated potassium fluoride aqueous solution, and the precipitate was removed by filteration through celite. The resulting solution was extracted with ethyl acetate. The organic layer was concentrated in vacuo. To the residue was added THF (15 ml), 2N HCl aqueous solution (15 ml), and the mixture was heated at reflux temperature for 8 hours. The reaction mixture was cooled down to room temperature, made neutral by addition of NaHCO3, and extracted with ethyl acetate. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate-hexane (1:5) to give title compound (1.51 g, 74% yield).

reactant | 4-(4-bromo-2-ethylphenyl)-1,3-thiazole | 8.76 mmol, 2.35 g | BrC1=CC(=C(C=C1)C=1N=CSC1)CC | C11H10BrNS
reactant | tributyl(1-ethoxyvinyl)tin | 9.64 mmol, 3.48 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | lithium chloride | 21.9 mmol, 928 mg | [Cl-].[Li+]
solvent | dioxane | 45 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.876 mmol, 1010 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[3-Ethyl-4-(1,3-thiazol-4-yl)phenyl]-1-ethanone | 1.51 g, 74% yield | C(C)C=1C=C(C=CC1C=1N=CSC1)C(C)=O | C13H13NOS
